US06469167B1
4-Hydroxybenzaldehyde (250 g, 2.05 M), potassium carbonate (565 g, 4.09 M), toluene (2.5 L), p-toluenesulfonic acid (39 g, 0.21 M) and iodine (2 g, catalytic) were taken in a 5 L 4-neck round bottom flask with mechanical stirrer and a Dean-Stark condenser. Ethylchloroacetate (251 g, 2.05 M) was added and the reaction was refluxed for 6-8 hours, under azeotropic removal of water, while monitoring the reaction on TLC. After the completion of tile reaction, water was added and the organic layer separated while the aq. layer was extracted with toluene (2×500 ml). The combined organic layers were washed with brine and concentrated wider vacuum to yield 4-((carboethoxy)methoxy)benzaldehyde as an oily material (395 g, Y=93%, P=99%).

reactant | 4-Hydroxybenzaldehyde | 2.05 M, 250 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 4.09 M, 565 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluenesulfonic acid | 0.21 M, 39 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | iodine | 2 g | II | I2
reactant | Ethylchloroacetate | 2.05 M, 251 g | C(C)OC(CCl)=O | C4H7ClO2
solvent | water | O | H2O
solvent | toluene | 2.5 L | C1(=CC=CC=C1)C | C7H8
product | 4-((carboethoxy)methoxy)benzaldehyde | C(=O)(OCC)COC1=CC=C(C=O)C=C1 | C11H12O4
